US08440651B2
5-aminopyrimidine-2,4(1H,3H)-dione 1
Into a 5-L 4-necked round-bottom flask were placed water (2.871 L), ammonia (116.1 mL) and 5-nitropyrimidine-2,4(1H,3H)-dione (180 g, 1.15 mol, 1.00 equiv). This was followed by the addition of Na2S2O2 (860 g, 6.06 mol, 4.30 equiv) in several batches. The pH value of the solution was adjusted to 8 with ammonia (25%). The resulting solution was stirred for 3 h (hours) at 75° C. The reaction mixture was cooled to 15° C. with an ice/water bath. The solid was collected by filtration. This resulted in 118 g (81%) of 5-aminopyrimidine-2,4(1H,3H)-dione 1 as a yellow solid (see Scheme 1).

reactant | ammonia | 116.1 mL | N | H3N
reactant | 5-nitropyrimidine-2,4(1H,3H)-dione | 1.15 mol, 180 g, 1.00 equiv | [N+](=O)([O-])C=1C(NC(NC1)=O)=O | C4H3N3O4
solvent | water | 2.871 L | O | H2O
product | 5-aminopyrimidine-2,4(1H,3H)-dione | NC=1C(NC(NC1)=O)=O | C4H5N3O2
